US07517873B2
To a solution of 1.07 g (0.030 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-butanoic acid ethyl ester in 20 mL of acetic acid was added 1.0 g (0.018 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hrs and then filtered while hot. 50 mL of water and 50 mL of ethyl acetate were added and the mixture was stirred for 10 minutes and then filtered. The layers were separated. The organic layer was washed with ammonium hydroxide and water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (100:0-96:4) gave 0.584 g of (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-1) as a white solid.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-butanoic acid ethyl ester | 0.030 mole, 1.07 g | C(C)OC(CC(C)N(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C15H21ClN4O4
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 1.0 g | [Fe] | Fe
product | (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.584 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCCC2)N1 | C13H17ClN4O
